Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / ACE Inhibitors / 
Beta-Blockers (Beta-Adrenergic Blocking Agts) / aspirin
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
Left and right heart catheterization, ___

attach
 
Pertinent Results:
ADMISSION LABS
===============
___ 05:48AM BLOOD WBC-6.0 RBC-4.65 Hgb-14.8 Hct-42.4 MCV-91 
MCH-31.8 MCHC-34.9 RDW-11.5 RDWSD-38.5 Plt ___
___ 05:48AM BLOOD Neuts-53.2 ___ Monos-9.2 Eos-4.0 
Baso-1.0 Im ___ AbsNeut-3.20 AbsLymp-1.94 AbsMono-0.55 
AbsEos-0.24 AbsBaso-0.06
___ 05:48AM BLOOD ___ PTT-30.9 ___
___ 05:48AM BLOOD Glucose-85 UreaN-21* Creat-1.1 Na-144 
K-4.0 Cl-105 HCO3-22 AnGap-17
___ 05:48AM BLOOD Calcium-8.3* Phos-3.8 Mg-1.9
___ 05:48AM BLOOD ALT-17 AST-22 AlkPhos-55 TotBili-1.0

PERTINENT LABS
==============
___ 05:23PM BLOOD %HbA1c-5.2 eAG-103
___ 05:48AM BLOOD TSH-3.1
___ 05:48AM BLOOD Free T4-1.2

PERTINENT STUDIES
==================
___ RIGHT CARDIAC CATH
RA 3 PA ___ (27) PCW 19
CI 4.73 CO 2.15

LEFT CARDIAC CATH
Findings
• Elevated left and right heart filling pressures.
• No angiographically apparent coronary artery disease.
• Elevated right and left heart pressures
• Patent coronary arteries
• Severe aortic regurgitation
Recommendations
• CSURG consult
• Referrred to CT Surgery / Dr ___ SAVR

___ TTE
LVEF 47%.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
mild cavity dilation and mild global systolic dysfunction. 
Increased PCWP. Mild resting left ventricular outflow tract 
gradient in the setting of high stroke volume. Mild right 
ventricular cavity dilation with normal systolic
function. Apparent prolapse of the right coronary leaflet with 
eccentric posteriorly directed moderate to severe aortic 
regurgitation causing fine fluttering of the anterior mitral 
valve leaflet. Mild mitral regurgitation. Indeterminate 
pulmonary artery systolic pressure. Mild thoracic aortic 
enlargement.
RECOMMEND: The low e' values suggest possible intrinsic 
myocardial disease. If clinically indicated, a cardiac MR is 
suggested for further evaluation of aortic regurgitation and 
myocardial function.

___ CXR PRE-OP
No acute cardiopulmonary abnormality.

___ CT CHEST NONCON PRE-OP
Noncalcified ascending thoracic aorta maximum diameter 42 mm.   
Left renal abnormalities should be evaluated by ultrasound. 

___ CAROTID US PRE-OP
Right ICA <40% stenosis. 
Left ICA <40% stenosis. 

DISCHARGE LABS
===============
___ 06:50AM BLOOD WBC-5.7 RBC-4.79 Hgb-15.2 Hct-43.6 MCV-91 
MCH-31.7 MCHC-34.9 RDW-11.2 RDWSD-37.5 Plt ___
___ 06:09AM BLOOD Glucose-91 UreaN-21* Creat-1.2 Na-141 
K-4.5 Cl-104 HCO3-25 AnGap-12
___ 06:09AM BLOOD Calcium-9.3 Phos-3.5 Mg-2.1
___ 04:08PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
 
Brief Hospital Course:
===================
TRANSITIONAL ISSUES
===================
[] Needs to see dentist w/in one week for dental clearance for 
cardiac surgery (aortic valve replacement)
[] We recommend repeat chemistry panel within one week of 
discharge given initiation of chlorthalidone prior to discharge.
[] 3 cm left renal lesion seen on chest CT should be evaluated 
by ultrasound.
[] Consider further uptitration of new BP meds as tolerated. 
Nifedpine, spironolactone, chlorthalidone, and hydralazine 
started given substantial allergy hx.
[] Titrate chlorthalidone to volume status. Trialed 20 PO Lasix 
as a maintenance diuretic and he was net negative 1.5L in a 
single day, so if chlorthalidone is too much, may need PRN 
diuretic as maintenance dose rather than standing diuretic.
[] Cardiac surgery follow-up for SAVR eval will be scheduled by 
cardiac surgery (currently scheduled w/ Dr. ___ as patient 
is considering earlier evaluation w/ a different surgeon
[] Ensure that patient is up-to-date with all preventative 
screenings and vaccinations

Discharge Cr: 1.2
Discharge Wt: 203 lbs

================ 
BRIEF SUMMARY: 
================ 
Mr. ___ is a ___ year-old male with AR, HTN, HFrEF, p/w heart
failure exacerbation and elevated troponins with ECG changes,
referred for right and left heart catheterization and coronary
angiography. RHC showed wide pulse pressure and somewhat 
elevated
left-sided pressures c/w AR, LHC did not show evidence of CAD, 
however did show severe AR which was confirmed on TTE which also 
demonstrated LVEF 47%. He was seen by cardiac surgery, who 
recommended further evaluation as an outpatient. His BP was 
significantly elevated, for which he was started on nifedipine, 
spironolactone, chlorthalidone, and hydral given his significant 
allergy history. At discharge, his BPs were better controlled 
(147/56).

# CORONARIES: Unknown
# PUMP: Unable to access Echo for EF
# RHYTHM: Sinus with 1st degree AV heart block and new TWIs

=============== 
ACTIVE ISSUES: 
=============== 
#Acute HFmrEF Exacerbation (47%)
#Severe AR
Patient with 2 week history of orthopnea, PND, ___ swelling in 
the
setting of dietary indiscretions and alcohol consumption. Other
potential causes include infections however no such symptoms,
worsening infiltrative disease, ischemia etc. He underwent
coronary angiography which demonstrated non-obstructive disease 
and RHC
demonstrating wide pulse pressure and somewhat elevated
left-sided pressures c/w AR. By RHC, he was only slightly volume 
overloaded despite his symptoms. Invasive testing notable for 
severe
AR and evidence of both diastolic and systolic dysfunction. TTE
w/ LVEF 47% on ___, mild ventricular dilation and global
systolic dysfunction, severe AR. He was diuresed with a small 
dose of IV Lasix, then transitioned to 20 PO, with which he was 
net negative 1.5L over a single day. We aggressively treated his 
BP with nifedipine, spironolactone, chlorthalidone, and hydral 
in light of his significant allergy history, which discharge BPs 
of 147/56. Verapamil was d/c'd, as it was felt to harmful in the 
setting of his significant AR and dependence on contractility 
along with minimal BP effect. We started spironolactone for 
additional BP control and low grade diuresis. He was seen by 
cardiac surgery and will f/u in clinic with Dr. ___. He was 
discharged on chlorthalidone 12.5 for maintenance diuretic and 
HTN tx, which should be titrated as needed to maintain 
euvolemia. He will discuss further with Dr. ___ Dr 
___ bio vs mechanical AVR.

#Cardiomyopathy: EF is mildly depressed, but given degree of AR, 
dilation of LV cavity and poorly controlled HTN felt to be the 
etiology and could also be the etiology of his low e' on TTE - 
there was consideration for a CMR but felt the initial treatment 
would be BP control, AVR and if EF does not recover, could 
perform CMR at that time. Normal volatage on  ECG and only mild 
LVH, overall little suspicion for an infiltrative process as 
well.

#Hypertension
Significantly elevated BPs w/o symptoms. Managed per "afterload" 
above.

#Renal lesion: incidentally noted on CT chest - pt recalls 
possible similar finding in the past and will discuss with his 
PCP later this week for further eval as indicated.

================ 
CHRONIC ISSUES: 
================ 
#Gout
Patient takes as needed colchicine and prednisone.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Verapamil 240 mg PO Q12H 
2. Fish Oil (Omega 3) 1000 mg PO DAILY 
3. Ascorbic Acid ___ mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Chlorthalidone 12.5 mg PO DAILY 
RX *chlorthalidone 25 mg 0.5 (One half) tablet(s) by mouth once 
a day Disp #*15 Tablet Refills:*0 
2.  HydrALAZINE 100 mg PO Q8H 
RX *hydralazine 100 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*90 Tablet Refills:*0 
3.  NIFEdipine (Extended Release) 90 mg PO DAILY 
RX *nifedipine 90 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Spironolactone 25 mg PO DAILY 
RX *spironolactone 25 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
5.  Ascorbic Acid ___ mg PO DAILY  
6.  Fish Oil (Omega 3) 1000 mg PO DAILY  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Acute on chronic heart failure
HTN
Severe aortic regurgitation

SECONDARY DIAGNOSIS
===================
Gout

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___!   

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted to the hospital because you had been feeling 
short of breath and you were found to have fluid on your lungs. 
This was felt to be due to a condition called heart failure, 
where your heart does not pump hard enough and fluid backs up 
into your lungs.   

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You were given a diuretic medication through the IV to help 
get the fluid out. 

- We started you on several blood pressure medicines to help 
your heart pump better. You improved considerably and were ready 
to leave the hospital.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 
- Your weight at discharge is 203 lb. Please weigh yourself 
today at home and use this as your new baseline  
- Please weigh yourself every day in the morning. Call your 
doctor if your weight goes up by more than 3 lbs

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Team  
 
Followup Instructions:
___